US08980911B2
4-{[7-(Acetylamino)-1H-pyrrolo[2,3-c]pyridin-3-yl]carbonyl}-3,5-dichloro-N-(2-methoxyethyl)benzamide was prepared analogously using N-(1H-pyrrolo[2,3-c]pyridin-7-yl) acetamide and 2,6-dichloro-4-(2-methoxyethylcarbamoyl)benzene carbonyl chloride (Compound No. 17).

reactant | N-(1H-pyrrolo[2,3-c]pyridin-7-yl) acetamide | N1C=CC=2C1=C(N=CC2)NC(C)=O | C9H9N3O
reactant | 2,6-dichloro-4-(2-methoxyethylcarbamoyl)benzene carbonyl chloride | ClC1=C(C(=CC(=C1)C(NCCOC)=O)Cl)C(=O)Cl | C11H10Cl3NO3
product | 4-{[7-(Acetylamino)-1H-pyrrolo[2,3-c]pyridin-3-yl]carbonyl}-3,5-dichloro-N-(2-methoxyethyl)benzamide | C(C)(=O)NC=1N=CC=C2C1NC=C2C(=O)C2=C(C=C(C(=O)NCCOC)C=C2Cl)Cl | C20H18Cl2N4O4
